US07645771B2
Tert-Butyl 4-cyano-4-phenylpiperidine-1-carboxylate (1a)
To a suspension of 4-cyano-4-phenylpiperidine hydrochloride (50.4 g, 0.266 mol) in tetrahydrofuran (440 ml) was added triethylamine (95 ml), followed by addition of a solution of di-tert-butyl dicarbonate (47.95 g, 0.22 mol) in tetrahydrofuran (150 ml) dropwise. The reaction mixture was stirred at room temperature for 2 hours. The solids were filtered and the filtrate was diluted with 200 ml of ethyl acetate, washed once with 200 ml of 1N citric acid, once with 200 ml of saturated aqueous sodium bicarbonate and once with 200 ml of brine. After drying over sodium sulfate, the solution was concentrated to a colorless thick oil (64.40 g, 99%). 1H-NMR (300 MHz, CDCl3): δ 7.51-7.34 (m, 5H), 4.33-4.18 (m, 2H), 3.27-3.19 (m, 2H), 2.14-1.92 (m, 4H), and 1.51 (s, 9H). ES-LCMS m/z 308 (M+H).

reactant | 4-cyano-4-phenylpiperidine hydrochloride | 0.266 mol, 50.4 g | Cl.C(#N)C1(CCNCC1)C1=CC=CC=C1
reactant | triethylamine | 95 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.22 mol, 47.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 440 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | Tert-Butyl 4-cyano-4-phenylpiperidine-1-carboxylate | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H22N2O2
